US07807676B2
To a suspension of 2-(4-methoxy-7-(pyrimidin-5-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid (50 mg, 0.168 mmol), 1-(1-phenyl-1H-tetrazol-5-yl)piperazine hydrochloride (40.2 mg, 0.151 mmol) and 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (59.2 mg, 0.184 mmol) in DMF (1 ml) was added N,N-Diisopropylethylamine (0.146 ml, 0.838 mmol). The mixture was stirred at room temperature for 4 hours. The mixture was diluted with 150 ml of CH2Cl2 and washed with 5% NaHCO3 (30 ml), brine (30 ml). The organic layer was dried over Na2SO4 and concentrated to give a residue, which was purified by prep. HPLC to give 1-(4-methoxy-7-(pyrimidin-5-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (10 mg, 0.020 mmol, 11.68% yield) (light tan solid). LCMS: m/e 511.4 (M+H)+, ret time 1.25 min. 1H NMR (500 MHz, MeOD) δ ppm 9.30 (s, 1H) 9.17 (s, 2H) 8.38 (s, 1H) 8.16 (s, 1H) 7.58-7.65 (m, 5H) 4.09 (s, 3H) 3.80-3.83 (m, 2H) 3.57-3.60 (m, 2H) 3.38-3.42 (m, 2H) 3.31-3.33 (m, 2H).

reactant | 2-(4-methoxy-7-(pyrimidin-5-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-oxoacetic acid | 0.168 mmol, 50 mg | COC1=C2C(=C(N=C1)C=1C=NC=NC1)NC=C2C(C(=O)O)=O | C14H10N4O4
reactant | 1-(1-phenyl-1H-tetrazol-5-yl)piperazine hydrochloride | 0.151 mmol, 40.2 mg | Cl.C1(=CC=CC=C1)N1N=NN=C1N1CCNCC1
reactant | 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.184 mmol, 59.2 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-Diisopropylethylamine | 0.838 mmol, 0.146 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-methoxy-7-(pyrimidin-5-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.020 mmol, 10 mg, 11.68% yield | COC1=C2C(=C(N=C1)C=1C=NC=NC1)NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O | C25H22N10O3
